US07323472B2
4-Chloro-6-(cycloprolpylmethyl-amino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde
Prepared as described above in Example 2 starting from 4,6-dichloro-2-methylsulfanyl-pyrimidine-5-carbaldehyde and (aminomethyl)cyclopropane to give the title compound 4-chloro-6-(cyclopropylmethyl-amino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde. 1H-NMR: δ 0.32 (m, 2H), 0.59 (m, 2H), 1.12 (m, 1H), 2.55 (s, 3H), 3.46 (m, 2H), 9.35 (br s, 1H), 10.28 (s, 1H). LC MS (m/e)=258 (MH+).

reactant | 4,6-dichloro-2-methylsulfanyl-pyrimidine-5-carbaldehyde | ClC1=NC(=NC(=C1C=O)Cl)SC | C6H4Cl2N2OS
reactant | (aminomethyl)cyclopropane | NCC1CC1 | C4H9N
product | 4-chloro-6-(cyclopropylmethyl-amino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde | ClC1=NC(=NC(=C1C=O)NCC1CC1)SC | C10H12ClN3OS
